US05719286
3-Oxo-2-oxaspiro[4,4]-nonane-1-carboxylic acid
3,3-Tetramethylene glutaric anhydride (5 g, 30 mmol) was heated to 105° C. and irradiated with a sun lamp while bromine (2 ml, 38.7 mmol) was added dropwise. After the bromine color dispersed, the reaction was cooled to room temperature and 2.4M NaOH (50 ml) was added and the mixture was heated to reflux for 2 hours. The solution was cooled to room temperature and the pH was adjusted to pH 2 and stirred in a ice water bath for 0.5 hour. The precipitate (unreacted 3,3-tetrametylene glutaric acid) was filtered and discarded. The filtrate was extracted three times with ethyl acetate and the combined organics were washed with brine and dried over MgSO4. Evaporation yielded the title acid as a colorless oil, 5 g, 90%. NMR (CDCl3, 300 MHz) δ 7.95 (broad s, OH), 4.65 (s, 1, methine), 2.61 and 2.35 (ab, 2, methylene), 1.9-1.45 (m, 8, tertramethylene).

reactant | 3,3-Tetramethylene glutaric anhydride | 30 mmol, 5 g | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
reactant | bromine | 38.7 mmol, 2 ml | BrBr | Br2
reactant | NaOH | 2.4M, 50 ml | [OH-].[Na+]
product | 3-Oxo-2-oxaspiro[4,4]-nonane-1-carboxylic acid | O=C1OC(C2(C1)CCCC2)C(=O)O | C9H12O4
